US06465507B2
1-[2-Oxo-5-(pyrrolidine-1-carbonyl)-1,2-dihydro-indol-3-ylidenemethyl]-2,5,6,7-tetrahydro-pyrrolo[3,4-c]pyridin-4-one
A mixture of 5-(pyrrolidine-1-carbonyl)-1,3-dihydro-indol-2-one (46 mg, 0.2 mmol), 4-oxo-4,5,6,7-tetrahydro-2H-pyrrolo[3,4-c]pyridine-1-carbaldehyde (1 equivalent) and 0.1 mL of piperidine in ethanol (1 mL) was heated in a sealed tube at 80° C. for 3 hours. The precipitate was collected by vacuum filtration, washed with ethanol and dried to give the title compound as a yellow solid.

reactant | 5-(pyrrolidine-1-carbonyl)-1,3-dihydro-indol-2-one | 0.2 mmol, 46 mg | N1(CCCC1)C(=O)C=1C=C2CC(NC2=CC1)=O | C13H14N2O2
reactant | 4-oxo-4,5,6,7-tetrahydro-2H-pyrrolo[3,4-c]pyridine-1-carbaldehyde | 1 equivalent | O=C1NCCC=2C1=CNC2C=O | C8H8N2O2
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 1-[2-Oxo-5-(pyrrolidine-1-carbonyl)-1,2-dihydro-indol-3-ylidenemethyl]-2,5,6,7-tetrahydro-pyrrolo[3,4-c]pyridin-4-one | O=C1NC2=CC=C(C=C2C1=CC=1NC=C2C(NCCC21)=O)C(=O)N2CCCC2 | C21H20N4O3
